US07323475B2
a) 1-Chloro-4-phenyl-isoquinoline-3-carboxylic acid ethyl ester
A mixture of 1-hydroxy-4-phenyl-isoquinoline-3-carboxylic acid ethyl ester (1.17 g, 4 mmol; can be obtained according to A. Marsili et al., Ann. Chim. (Rome), 1962, 52, 112-120), and concentrated POCl3 (10 ml) was refluxed with stirring for 1 h. Then the mixture was concentrated in vacuo. The residue was dissolved in EtOAc (50 ml), concentrated aqueous NaHCO3 solution (40 ml) was added and the mixture was stirred vigorously for 1 h. Subsequently, the organic phase was separated, dried over MgSO4 and concentrated in vacuo to give the title compound as a yellowish solid (1.20 g); MS-(+)-ion: M+1=312.0.

reactant | 1-hydroxy-4-phenyl-isoquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(C2=CC=CC=C2C1C1=CC=CC=C1)O | C18H15NO3
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-phenyl-isoquinoline-3-carboxylic acid ethyl ester | 1.20 g | C(C)OC(=O)C=1N=C(C2=CC=CC=C2C1C1=CC=CC=C1)Cl | C18H14ClNO2
